US08183246B2
4-{[5-(4-Methoxyphenyl)-6-phenylfuro[2,3-d]pyrimidin-4-yl]amino}butanal
Dissolve 640 mg (1.39 mmol) N-(4,4-diethoxybutyl)-5-(4-methoxyphenyl)-6-phenylfuro[2,3-d]pyrimidine-4-amine in 5 ml acetone and, at RT, add 1 ml 1 N hydrochloric acid. After 1 h, add the reaction mixture to water and extract three times with dichloromethane. Combine the organic phases and wash with buffer solution (pH 7) and saturated sodium chloride solution, dry over magnesium sulphate and concentrate under vacuum. Purify the raw product by chromatography on silica gel (solvent: dichloromethane/ethyl acetate 2:1). 191 mg (35.6% of theor.) of the target compound is obtained.

reactant | N-(4,4-diethoxybutyl)-5-(4-methoxyphenyl)-6-phenylfuro[2,3-d]pyrimidine-4-amine | 1.39 mmol, 640 mg | C(C)OC(CCCNC=1C2=C(N=CN1)OC(=C2C2=CC=C(C=C2)OC)C2=CC=CC=C2)OCC | C27H31N3O4
reactant | hydrochloric acid | 1 N, 1 ml | Cl | ClH
reactant | water | O | H2O
solvent | acetone | 5 ml | CC(=O)C | C3H6O
product | 4-{[5-(4-Methoxyphenyl)-6-phenylfuro[2,3-d]pyrimidin-4-yl]amino}butanal | COC1=CC=C(C=C1)C1=C(OC=2N=CN=C(C21)NCCCC=O)C2=CC=CC=C2 | C23H21N3O3
